US04058550
2,3,4,5,6-Pentahydroxyhexyl 4-(n-hexadecylamino)benzoate
In the manner described in Example 7, 3.62 g. of 4-(n-hexadecylamino)benzoic acid, 1.82 g. of mannitol, and 2.06 g. of p-toluene sulfonic acid are reacted to yield a mixture of mono- and bis-acylated products. Pure 2,3,4,5,6-pentahydroxyhexyl 4-(n-hexadecylamino)benzoate is separated from the mixture by adsorption chromatography using silica gel as the adsorbant.

reactant | 4-(n-hexadecylamino)benzoic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2,3,4,5,6-Pentahydroxyhexyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(C(C(C(CO)O)O)O)O)C=C1 | C29H51NO7
